US07429605B2
iii) 3-Chloromethyl-5-(3-chloro-phenyl)-pyridine
271 mg (0.165 ml, 2.28 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 250 mg (1.14 mmol) [5-(3-Chloro-phenyl)-pyridin-3-yl]-methanol in 20 ml dichloromethane and stirred for 3 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase was extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), evaporated and the obtained material (248 mg, 84%) used without further purification.

reactant | thionyl chloride | 2.28 mmol, 0.165 ml, 271 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | [5-(3-Chloro-phenyl)-pyridin-3-yl]-methanol | 1.14 mmol, 250 mg | ClC=1C=C(C=CC1)C=1C=C(C=NC1)CO | C12H10ClNO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5-(3-chloro-phenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC(=CC=C1)Cl | C12H9Cl2N
